US04556658
A mixture of 2.83 g (0.01 mol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 0.9 g (0.01 mol) of morpholine and 2.3 g of diazabicyclo [2.2.2]octane (0.02 mol) in 35 ml of dimethyl sulphoxide is heated to 140° C. for 5 hours. The solvent is distilled off in vacuo, 50 ml of water are added to the residue, the mixture is acidified with semiconcentrated hydrochloric acid, and, when the mixture is cold, the product is filtered off under suction, washed with water, dried in vacuo and recrystallised from glycol monomethyl ether. 2.4 g of 1-cyclopropyl-6,8-difluoro-7-(morpholin-4-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid having a decomposition temperature of 257°-260° C. are obtained.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.01 mol, 2.83 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | morpholine | 0.01 mol, 0.9 g | N1CCOCC1 | C4H9NO
reactant | diazabicyclo [2.2.2]octane | 0.02 mol, 2.3 g | N12NCC(CC1)CC2 | C6H12N2
solvent | dimethyl sulphoxide | 35 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6,8-difluoro-7-(morpholin-4-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 2.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCOCC1)F)=O)C(=O)O | C17H16F2N2O4
